tb_loop_comp.cir - L39 ESPLORAZIONE: V1 coi modelli del costruttore al variare di C_f (C137) e del Miller (C124). Generato da esplora_compensazione.py dal circuito di tb_loop.cir
* METHOD: voltage injection at the inverting JFET gate. That node draws no
* current (JFET gate, ~1e12 ohm) while the feedback network drives it from
* ~470 ohm, so simple voltage injection is exact here - no Middlebrook
* correction needed. The deck OPENS the generated gate stopper R109 and
* re-creates it as RBRK + a DC=0 AC=1 source, so the loop topology and the DC
* bias are untouched; only the injection point is added.
*
* T = V(FB)/V(G2). G2 is the INVERTING input, so T is negative real at DC:
* its phase there is 180 deg. Phase margin is therefore read directly as
* |ph(T)| at the frequency where |T| = 1.
*
* WHERE THE PROBE GOES (L12, ADR-024). The capacitive probe of V1 is the
* interconnect cable: it sits at the JACK, and ADR-019's 60 deg must hold for
* EVERY cable up to 4.7 nF - the verdict is the MINIMUM over the sweep, not the
* value at 4.7 nF (at the jack the minimum lies between 2.2 and 3.3 nF).
*   pos 1  CCABLE at the JACK, after 47 ohm + 4.7 uF - the position that counts;
*   pos 2  CNODE on the OUTPUT NODE, before the 47 ohm - information only, and
*          the check that the deck can fail (L12: with CNODE never altered the
*          pos-2 rows stayed at the 1 fF value).
* The unused probe sits at 1 fF.
*
* ATTENUATOR SOURCE (L12). Block B's gate is fed by the 10 k stepped attenuator,
* whose Zout goes 0 -> 2.5 k (mid-rotation) -> ~0. V1 lists the positions; L12
* found the worst cell at 2.5 k. RSRCB sweeps 1 mohm, 1 k, 2.5 k.
* Node VSRCN, not SRC: gain_block_flat.inc has a node SRC (docs/limitations.md #24).
*
* Phase margin is set by device capacitances and transit times. Until L39 they
* came from hand-written placeholders; since L39 (NC-017) they are the
* manufacturer models of models/. Two of them miss their own datasheet: both
* MJE f_T sit under the 30 MHz minimum (NC-025), the LS352 f_T 35 % under
* (NC-020) - every margin here carries that.

.include @REPO@/models/jfet/lsk489.lib
.include @REPO@/models/bjt_npn/mmbt5551.lib
.include @REPO@/models/bjt_pnp/mmbt5401.lib
.include @REPO@/models/bjt_npn/mje15032.lib
.include @REPO@/models/bjt_pnp/mje15033.lib
.include @REPO@/models/diodes/1n4148.lib
* L39 (NC-017): every active device in this deck is a vendor model from
* models/, each next to its .provenance.json:
*   LSK489   - vendor model LSK489A, the published corner sample (I_DSS
*              2.59 mA, below the group-B window of ADR-031)
*   LS352    - vendor model LS350 (ADR-018), included on the next line
*   MMBT5551 - vendor model, Diodes Inc. (ADR-017)
*   MMBT5401 - vendor model, Diodes Inc. (ADR-017)
*   MJE15032 - vendor model Qmje15032, onsemi (NC-024, NC-025)
*   MJE15033 - vendor model Qmje15033, onsemi (NC-025)
*   1N4148   - vendor model D1N914, onsemi (docs/limitations.md #20)
* Only the LSK489A carries KF: 1/f noise is on the input pair and nowhere
* else. No model carries part-to-part spread.
.include @REPO@/models/bjt_pnp/ls350.lib
.include @REPO@/spice/preamp/gain_block_flat.inc

VPP VPLUS 0 DC 15
VMM VMINUS 0 DC -15
VIN VSRCN 0 DC 0
RSRCB VSRCN IN 1m

* The two gain-relay contact nodes (L27, ADR-026). Each starts as an OPEN
* contact - 15 pF of stray, 1 G of leakage - and a closed one is 0.1 ohm:
*   0 dB    rrg = 1G    rrg10 = 1G
*   +3 dB   rrg = 0.1   rrg10 = 1G
*   +10 dB  rrg = 0.1   rrg10 = 0.1
* RG10 must be terminated here: left dangling it silently behaves as an open
* contact without its stray (scripts/check_deck_refs.py refuses that).
CSTRAY   RG   0 15p
RRG      RG   0 1G
CSTRAY10 RG10 0 15p
RRG10    RG10 0 1G

* loop break, substituting for the generated 100 ohm gate stopper R109
RBRK FB NBRK 100
VINJ NBRK G2 DC 0 AC 1

* BLOCK B output network + cable. The probes are altered in the loop below.
* No new node names on the block: CNODE sits on the block's own OUT (#24).
RISO   OUT OUTA 47
COUT   OUTA JACK 4.7u
RBLEED JACK 0 220k
RLOAD  JACK 0 100k
CCABLE JACK 0 1f
CNODE  OUT 0 1f

.control
alter r109 = 1G
set units = degrees
echo "cf,cm,mode,rload,rsrc,cprobe,fcross_hz,pm_deg,tdb_10hz" > tb_loop_comp.csv
alter cnode = 1f
alter c137 = 330p
alter c124 = 470p
foreach mode 0 10
  if $mode = 0
    alter rrg = 1G
    alter rrg10 = 1G
  end
  if $mode = 10
    alter rrg = 0.1
    alter rrg10 = 0.1
  end
  foreach rl 100k 10k
    alter rload = $rl
    foreach rs 1m 2.611k
      alter rsrcb = $rs
      foreach cab 1f 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
        alter ccable = $cab
        ac dec 100 1 100meg
        let T = v(fb)/v(g2)
        let Tdb = db(T)
        let Tph = ph(T)
        meas ac fcross when Tdb=0
        meas ac pmarg find Tph when Tdb=0
        meas ac tdc find Tdb at=10
        echo "330p,470p,$mode,$rl,$rs,$cab,$&fcross,$&pmarg,$&tdc" >> tb_loop_comp.csv
        destroy all
      end
    end
  end
end
alter c137 = 390p
alter c124 = 470p
foreach mode 0 10
  if $mode = 0
    alter rrg = 1G
    alter rrg10 = 1G
  end
  if $mode = 10
    alter rrg = 0.1
    alter rrg10 = 0.1
  end
  foreach rl 100k 10k
    alter rload = $rl
    foreach rs 1m 2.611k
      alter rsrcb = $rs
      foreach cab 1f 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
        alter ccable = $cab
        ac dec 100 1 100meg
        let T = v(fb)/v(g2)
        let Tdb = db(T)
        let Tph = ph(T)
        meas ac fcross when Tdb=0
        meas ac pmarg find Tph when Tdb=0
        meas ac tdc find Tdb at=10
        echo "390p,470p,$mode,$rl,$rs,$cab,$&fcross,$&pmarg,$&tdc" >> tb_loop_comp.csv
        destroy all
      end
    end
  end
end
alter c137 = 470p
alter c124 = 470p
foreach mode 0 10
  if $mode = 0
    alter rrg = 1G
    alter rrg10 = 1G
  end
  if $mode = 10
    alter rrg = 0.1
    alter rrg10 = 0.1
  end
  foreach rl 100k 10k
    alter rload = $rl
    foreach rs 1m 2.611k
      alter rsrcb = $rs
      foreach cab 1f 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
        alter ccable = $cab
        ac dec 100 1 100meg
        let T = v(fb)/v(g2)
        let Tdb = db(T)
        let Tph = ph(T)
        meas ac fcross when Tdb=0
        meas ac pmarg find Tph when Tdb=0
        meas ac tdc find Tdb at=10
        echo "470p,470p,$mode,$rl,$rs,$cab,$&fcross,$&pmarg,$&tdc" >> tb_loop_comp.csv
        destroy all
      end
    end
  end
end
alter c137 = 560p
alter c124 = 470p
foreach mode 0 10
  if $mode = 0
    alter rrg = 1G
    alter rrg10 = 1G
  end
  if $mode = 10
    alter rrg = 0.1
    alter rrg10 = 0.1
  end
  foreach rl 100k 10k
    alter rload = $rl
    foreach rs 1m 2.611k
      alter rsrcb = $rs
      foreach cab 1f 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
        alter ccable = $cab
        ac dec 100 1 100meg
        let T = v(fb)/v(g2)
        let Tdb = db(T)
        let Tph = ph(T)
        meas ac fcross when Tdb=0
        meas ac pmarg find Tph when Tdb=0
        meas ac tdc find Tdb at=10
        echo "560p,470p,$mode,$rl,$rs,$cab,$&fcross,$&pmarg,$&tdc" >> tb_loop_comp.csv
        destroy all
      end
    end
  end
end
alter c137 = 680p
alter c124 = 470p
foreach mode 0 10
  if $mode = 0
    alter rrg = 1G
    alter rrg10 = 1G
  end
  if $mode = 10
    alter rrg = 0.1
    alter rrg10 = 0.1
  end
  foreach rl 100k 10k
    alter rload = $rl
    foreach rs 1m 2.611k
      alter rsrcb = $rs
      foreach cab 1f 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
        alter ccable = $cab
        ac dec 100 1 100meg
        let T = v(fb)/v(g2)
        let Tdb = db(T)
        let Tph = ph(T)
        meas ac fcross when Tdb=0
        meas ac pmarg find Tph when Tdb=0
        meas ac tdc find Tdb at=10
        echo "680p,470p,$mode,$rl,$rs,$cab,$&fcross,$&pmarg,$&tdc" >> tb_loop_comp.csv
        destroy all
      end
    end
  end
end
alter c137 = 820p
alter c124 = 470p
foreach mode 0 10
  if $mode = 0
    alter rrg = 1G
    alter rrg10 = 1G
  end
  if $mode = 10
    alter rrg = 0.1
    alter rrg10 = 0.1
  end
  foreach rl 100k 10k
    alter rload = $rl
    foreach rs 1m 2.611k
      alter rsrcb = $rs
      foreach cab 1f 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
        alter ccable = $cab
        ac dec 100 1 100meg
        let T = v(fb)/v(g2)
        let Tdb = db(T)
        let Tph = ph(T)
        meas ac fcross when Tdb=0
        meas ac pmarg find Tph when Tdb=0
        meas ac tdc find Tdb at=10
        echo "820p,470p,$mode,$rl,$rs,$cab,$&fcross,$&pmarg,$&tdc" >> tb_loop_comp.csv
        destroy all
      end
    end
  end
end
alter c137 = 1n
alter c124 = 470p
foreach mode 0 10
  if $mode = 0
    alter rrg = 1G
    alter rrg10 = 1G
  end
  if $mode = 10
    alter rrg = 0.1
    alter rrg10 = 0.1
  end
  foreach rl 100k 10k
    alter rload = $rl
    foreach rs 1m 2.611k
      alter rsrcb = $rs
      foreach cab 1f 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
        alter ccable = $cab
        ac dec 100 1 100meg
        let T = v(fb)/v(g2)
        let Tdb = db(T)
        let Tph = ph(T)
        meas ac fcross when Tdb=0
        meas ac pmarg find Tph when Tdb=0
        meas ac tdc find Tdb at=10
        echo "1n,470p,$mode,$rl,$rs,$cab,$&fcross,$&pmarg,$&tdc" >> tb_loop_comp.csv
        destroy all
      end
    end
  end
end
alter c137 = 330p
alter c124 = 560p
foreach mode 0 10
  if $mode = 0
    alter rrg = 1G
    alter rrg10 = 1G
  end
  if $mode = 10
    alter rrg = 0.1
    alter rrg10 = 0.1
  end
  foreach rl 100k 10k
    alter rload = $rl
    foreach rs 1m 2.611k
      alter rsrcb = $rs
      foreach cab 1f 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
        alter ccable = $cab
        ac dec 100 1 100meg
        let T = v(fb)/v(g2)
        let Tdb = db(T)
        let Tph = ph(T)
        meas ac fcross when Tdb=0
        meas ac pmarg find Tph when Tdb=0
        meas ac tdc find Tdb at=10
        echo "330p,560p,$mode,$rl,$rs,$cab,$&fcross,$&pmarg,$&tdc" >> tb_loop_comp.csv
        destroy all
      end
    end
  end
end
alter c137 = 330p
alter c124 = 680p
foreach mode 0 10
  if $mode = 0
    alter rrg = 1G
    alter rrg10 = 1G
  end
  if $mode = 10
    alter rrg = 0.1
    alter rrg10 = 0.1
  end
  foreach rl 100k 10k
    alter rload = $rl
    foreach rs 1m 2.611k
      alter rsrcb = $rs
      foreach cab 1f 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
        alter ccable = $cab
        ac dec 100 1 100meg
        let T = v(fb)/v(g2)
        let Tdb = db(T)
        let Tph = ph(T)
        meas ac fcross when Tdb=0
        meas ac pmarg find Tph when Tdb=0
        meas ac tdc find Tdb at=10
        echo "330p,680p,$mode,$rl,$rs,$cab,$&fcross,$&pmarg,$&tdc" >> tb_loop_comp.csv
        destroy all
      end
    end
  end
end
alter c137 = 330p
alter c124 = 820p
foreach mode 0 10
  if $mode = 0
    alter rrg = 1G
    alter rrg10 = 1G
  end
  if $mode = 10
    alter rrg = 0.1
    alter rrg10 = 0.1
  end
  foreach rl 100k 10k
    alter rload = $rl
    foreach rs 1m 2.611k
      alter rsrcb = $rs
      foreach cab 1f 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
        alter ccable = $cab
        ac dec 100 1 100meg
        let T = v(fb)/v(g2)
        let Tdb = db(T)
        let Tph = ph(T)
        meas ac fcross when Tdb=0
        meas ac pmarg find Tph when Tdb=0
        meas ac tdc find Tdb at=10
        echo "330p,820p,$mode,$rl,$rs,$cab,$&fcross,$&pmarg,$&tdc" >> tb_loop_comp.csv
        destroy all
      end
    end
  end
end
alter c137 = 330p
alter c124 = 1n
foreach mode 0 10
  if $mode = 0
    alter rrg = 1G
    alter rrg10 = 1G
  end
  if $mode = 10
    alter rrg = 0.1
    alter rrg10 = 0.1
  end
  foreach rl 100k 10k
    alter rload = $rl
    foreach rs 1m 2.611k
      alter rsrcb = $rs
      foreach cab 1f 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
        alter ccable = $cab
        ac dec 100 1 100meg
        let T = v(fb)/v(g2)
        let Tdb = db(T)
        let Tph = ph(T)
        meas ac fcross when Tdb=0
        meas ac pmarg find Tph when Tdb=0
        meas ac tdc find Tdb at=10
        echo "330p,1n,$mode,$rl,$rs,$cab,$&fcross,$&pmarg,$&tdc" >> tb_loop_comp.csv
        destroy all
      end
    end
  end
end
print @c137[capacitance] @c124[capacitance]
.endc
.end
