esplora_B3.cir - L12 scratch: block B, larger C_f (C137) with low Miller, cable at the JACK
* Scratch, not versioned. C124 470p/560p x C137 100p/150p/220p/330p x RISO 47/56/68,
* both gain modes, attenuator source 1 mohm / 1 k / 2.5 k, load 100 k,
* cable 1 f, 470 p, 1 n .. 4.7 n. Also |T| at 20 kHz.
* Question: can C_f alone reach 60 deg without moving E4 (RISO 47) or slew (C124)?
* Node names: VSRCN, OUTA, JACK, NBRK (#24).

.include @REPO@/spice/preamp/placeholder_devices.lib
.include @REPO@/models/bjt_pnp/ls350.lib
.include @REPO@/spice/preamp/gain_block_flat.inc

VPP VPLUS 0 DC 15
VMM VMINUS 0 DC -15
VIN VSRCN 0 DC 0
RSRCB VSRCN IN 1m

CSTRAY RG 0 15p
RRG    RG 0 1G

RBRK FB NBRK 100
VINJ NBRK G2 DC 0 AC 1

RISO   OUT OUTA 47
COUT   OUTA JACK 4.7u
RBLEED JACK 0 220k
RLOAD  JACK 0 100k
CCABLE JACK 0 1f

.control
alter r109 = 1G
set units = degrees
echo "c124,c137,riso,mode,rsrc,ccable,fcross_hz,pm_deg,tdb_20k" > esplora_B3_tab.csv
foreach cm 470p 560p
  alter c124 = $cm
  foreach cf 100p 150p 220p 330p
    alter c137 = $cf
    foreach ri 47 56 68
      alter riso = $ri
      foreach mode 1G 0.1
        alter rrg = $mode
        foreach rs 1m 1k 2.5k
          alter rsrcb = $rs
          foreach cab 1f 470p 1n 1.5n 2.2n 2.7n 3.3n 4.7n
            alter ccable = $cab
            ac dec 100 1 100meg
            let T = v(fb)/v(g2)
            let Tdb = db(T)
            let Tph = ph(T)
            meas ac fcross when Tdb=0
            meas ac pmarg find Tph when Tdb=0
            meas ac t20k find Tdb at=20000
            echo "$cm,$cf,$ri,$mode,$rs,$cab,$&fcross,$&pmarg,$&t20k" >> esplora_B3_tab.csv
            destroy all
          end
        end
      end
    end
  end
end
.endc

.end
